US05041673
(±)-(1R,2R,3R)-3-Tert-butoxycarbonylamino-1-fluoro-1,2,3,4-tetrahydro-2-naphthalenol
To a solution of (±)-(1S,2R,3R)-3-tert-butoxycarbonylamino-1,2-epoxy-1,2,3,4-tetrahydro-naphthalene (100 mg) in anhydrous diethyl ether (6 ml) cooled in an ice-bath was added 70% hydrogen fluoride-pyridine (0.24 ml). The mixture was stirred at 0° C. for 9 hours, ice was added and the reaction mixture was neutralized by addition of solid sodium bicarbonate (1.2 g) at 0° C. and extracted with diethyl ether. The organic layer was dried over magnesium sulfate and evaporated to afford the crude title compound as an oil (65 mg). This crude material was purified by chromatography on silica gel (10 g, elution with ethyl acetate:cyclohexane, 2:8) and the resulting material (35 mg) was crystallized from a diethyl ether/pentane mixture to afford the title compound as a white solid, m.p. 98°-99° C.

reactant | (±)-(1S,2R,3R)-3-tert-butoxycarbonylamino-1,2-epoxy-1,2,3,4-tetrahydro-naphthalene | 100 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2[C@H](C3=CC=CC=C3C1)O2 | C15H19NO3
reactant | hydrogen fluoride-pyridine | 0.24 ml | N1=CC=CC=C1.F
reactant | sodium bicarbonate | 1.2 g | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
product | (±)-(1R,2R,3R)-3-Tert-butoxycarbonylamino-1-fluoro-1,2,3,4-tetrahydro-2-naphthalenol | C(C)(C)(C)OC(=O)N[C@H]1[C@H]([C@@H](C2=CC=CC=C2C1)F)O | C15H20FNO3
